US08802673B2
(RS)-2-(4-Amino-phenyl)-morpholine-4-carboxylic acid tert-butyl ester (60 mg, CAS 1002726-96-6), 2,5-dichloropyridine (31.9 mg, CAS 16110-09-1) and cesium carbonate (105 mg) were combined with dioxane (2 ml) to give a yellow suspension. The mixture was degassed by bubbling argon into the mixture for several minutes. Xantphos (7.48 mg) and tris(dibenzylideneacetone)dipalladium chloroform complex (6.69 mg) were then added. The reaction mixture was then capped and stirred at 100° C. overnight. The crude reaction mixture was cooled to room temperature and filtered. The filtrate was concentrated in vacuo and the residue was purified by flash column chromatography (silica gel; gradient: 0% to 70% EtOAc in hexanes) to afford (RS)-2-[4-(5-chloro-pyridin-2-ylamino)-phenyl]-morpholine-4-carboxylic acid tert-butyl ester (52 mg, 62%) as a yellow amorphous solid. MS (ISP): 392.0 ([{37Cl}M+H]+), 390.1 ([{35Cl}M+H]+), 336.4 ([{37Cl}M+H—C4H8]+), 334.3 ([{35Cl}M+H—C4H8]+).

reactant | (RS)-2-(4-Amino-phenyl)-morpholine-4-carboxylic acid tert-butyl ester | 60 mg | C(C)(C)(C)OC(=O)N1CC(OCC1)C1=CC=C(C=C1)N | C15H22N2O3
reactant | 2,5-dichloropyridine | 31.9 mg | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | cesium carbonate | 105 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | (RS)-2-[4-(5-chloro-pyridin-2-ylamino)-phenyl]-morpholine-4-carboxylic acid tert-butyl ester | 52 mg, 62% | C(C)(C)(C)OC(=O)N1CC(OCC1)C1=CC=C(C=C1)NC1=NC=C(C=C1)Cl | C20H24ClN3O3
